* source FILTER
L_L1         N14552 N14473  0.96u  
R_Rdamp         N14467 N14473  200 TC=0,0 
R_Rload         0 N14502  100 TC=0,0 
L_L2         N14473 N46457  1.7u  
C_C1         0 N14467  70p  TC=0,0 
V_V1         N14552 0  
+PULSE 0 30 0 3n 3n 25n 50n
R_Rshunt         N46457 N49021  0.1 TC=0,0 
V_V4         VCC_ARROW 0 30
V_V5         VCC 0 -30
R_R2         N49514 N46457  20k TC=0,0 
R_R1         N49541 N49021  20k TC=0,0 
R_R3         N49627 N49541  1k TC=0,0 
R_R4         N49514 0  1k TC=0,0 
X_U4         N49514 N49541 VCC_ARROW VCC N49627 AD8004AN/AD
X_U6         0 N71363 VCC_ARROW VCC N71372 AD8004AN/AD
R_R10         N71363 N71372  100 TC=0,0 
R_R11         N76028 N49021  10.001k TC=0,0 
R_R12         N76024 N46457  9999 TC=0,0 
R_R13         N76024 0  1000.1 TC=0,0 
R_R14         N76176 N76028  999.9 TC=0,0 
X_U7         N76024 N76028 VCC_ARROW VCC N76176 AD8004AN/AD
R_Rshunt2         N82074 N82070  0.1 TC=0,0 
R_R19         N84482 N82074  10k TC=0,0 
R_R21         N84482 0  10k TC=0,0 
R_R20         N84486 N82070  10k TC=0,0 
X_U9         N84482 N84486 VCC_ARROW VCC N84620 AD8004AN/AD
R_R22         N84620 N84486  10k TC=0,0 
X_TX3    N82074 N82070 N49021 N14502 SCHEMATIC1_TX3 
R_R23         N84620 N71363  100 TC=0,0 
V_V6         VCC-1 0 1
R_R24         VCC-1 N71363  100 TC=0,0 

.subckt SCHEMATIC1_TX3 1 2 3 4  
K_TX3         L1_TX3 L2_TX3 0.99
L1_TX3         1 2 1n
L2_TX3         3 4 1n
.ends SCHEMATIC1_TX3
